US09301951B2
Intermediate 4.12a: N-benzyl-2-morpholinoethanamine, hydrochloride salt
A solution of 100 mg of N-(2-chloroethyl)morpholine and 575 mg of benzylamine in 5 mL of CH3CN was refluxed for 2 h. The mixture was cooled to 25° C. and partitioned between dichloromethane and an aqueous sodium bicarbonate solution. The organic extracts were dried and the solvent was evaporated. The residual solvent was removed at high vacuum and the residue was dissolved in a large excess of methanolic HCl. The solvent was evaporated to give 60 mg of the product.

reactant | N-(2-chloroethyl)morpholine | 100 mg | ClCCN1CCOCC1 | C6H12ClNO
reactant | benzylamine | 575 mg | C(C1=CC=CC=C1)N | C7H9N
solvent | CH3CN | 5 mL | CC#N | C2H3N
product | N-benzyl-2-morpholinoethanamine, hydrochloride salt | 60 mg | Cl.C(C1=CC=CC=C1)NCCN1CCOCC1 | InChI=1S/C13H20N2O.ClH/c1-2-4-13(5-3-1)12-14-6-7-15-8-10-16-11-9-15;/h1-5,14H,6-12H2;1H
